US03963780
A mixture of 15 g. of N-(2-phenylethyl)-p-nitroaniline, 100 ml. of methanol, and 2.5 g. of 10% palladium on carbon catalyst is shaken under 1 to 2 atmospheres of hydrogen until uptake of the hydrogen ceases. The resultant reaction mixture is filtered through celite and washed with methanol. The filtrate is concentrated in vacuo to yield the product, N-(2-phenylethyl)-p-phenylenediamine, as an oil which can be converted to the dihydrochloride, m.p. 247°C. by bubbling hydrogen chloride gas through a solution of the oil in ether for 1/2 hour.

reactant | N-(2-phenylethyl)-p-nitroaniline | C1(=CC=CC=C1)CCNC1=CC=C(C=C1)[N+](=O)[O-] | C14H14N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-(2-phenylethyl)-p-phenylenediamine | C1(=CC=CC=C1)CCNC1=CC=C(C=C1)N | C14H16N2
